US06150352
(2,2-dimethoxyethyl)-pyrazin-2-yl-amine
To a solution of 2-chloropiperazine (1.0 g in 5 mL dry toluene) was added 2,2-dimethoxyethylamine (1.1 g) followed by 1.2 mL triethylamine and the mixture heated to reflux on an oil bath. After 48 hours, the reaction mixture was applied to a flash chromatography column (silica gel) for purification (ethyl acetate:hexane, 7:3; then 100:0) to give the title compound (101 mg).

reactant | 2-chloropiperazine | 5 mL, 1.0 g | ClC1NCCNC1 | C4H9ClN2
reactant | 2,2-dimethoxyethylamine | 1.1 g | COC(CN)OC | C4H11NO2
solvent | triethylamine | 1.2 mL | C(C)N(CC)CC | C6H15N
product | (2,2-dimethoxyethyl)-pyrazin-2-yl-amine | 101 mg | COC(CNC1=NC=CN=C1)OC | C8H13N3O2
